data/mechanisms/records/IMS8-EQ8.20a.json
{"mechanism_id": "IMS8-EQ8.20a", "species": [{"species_id": "phenylethanol_molecular_ion", "mapped_smiles": "[C:4]1(=[CH:5][CH:6]=[CH:7][CH:9][CH+:10]1)[CH2:3][CH2:1][O:2][1H:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylenecyclohexadiene_radical_cation", "mapped_smiles": "[CH2:3]=[C:4]1[CH:5]([1H:8])[CH:6]=[CH:7][CH:9][CH+:10]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "formaldehyde_neutral", "mapped_smiles": "[CH2:1]=[O:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["phenylethanol_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["methylenecyclohexadiene_radical_cation", "formaldehyde_neutral"]}], "steps": [{"step_id": "step_rH_six_membered_formaldehyde_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [5, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_20a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_six_membered_formaldehyde_loss", "support_type": "textbook_proposed", "locator": {"page": 152, "equation": "8.20", "section": "8.x Transition-state structure / ring size of the rearrangement (five- and six-membered transition states favored). Equation 8.20 branch (a), labelled 'rH'."}, "confidence": 0.85, "curator_note": "Equation 8.20, FAVORED branch (a), labelled 'rH' (hydrogen rearrangement). 2-phenylethanol molecular ion loses formaldehyde (CH2=O) through a SIX-membered transition state (ring atoms O2-C1-C3-C4-C5 plus the migrating H8) to give the LESS-STABLE methylenecyclohexadiene radical cation (C7H8+., m/z 92). Text: 'The preference for a six-membered transition state also applies to the elimination of formaldehyde from 2-phenylethanol, which forms the less-stable (dHf = 0.3 eV) methylenecyclohexadiene ion (Equation 8.20, Burgers et al. 1982).' ARC COUNT (convention D): the page draws a DENSE concerted-radical depiction of roughly six fishhook (half-arrow) arcs threaded around the six-membered TS -- the O-H bond over to the ortho ring carbon, ring pi-bond shifts, the ipso->benzylic (exocyclic) pi formation, and the C1-C3/C1=O2 region -- together with a TRANSIENT distonic marking, a dot (.) drawn on the carbinol carbon C1 and a (+) drawn near the benzylic/ipso carbon inside the TS. Book draws ~6 fishhook arc(s); none is an implicit hook -- every bond-forming/breaking electron is drawn (6 single-electron fishhooks = the 3 encoded double-barbed 2e moves paired up). ENCODING: I encode the NET bond reorganization as a balanced 6-electron retro-ene-type (pericyclic) flow with three double-barbed (2e) moves: move<1> O2-H8 sigma -> new C5-H8 bond (H8 delivered to the ortho ring carbon C5); move<2> the C4=C5 ring pi -> the exocyclic C3=C4 pi; move<3> the C1-C3 sigma -> the new C1=O2 carbonyl pi (expelling neutral formaldehyde). CONVENTION C (delocalized aromatic radical cation): the aromatic ring radical cation is DELOCALIZED; the page draws +. on the ring in both the reactant and the product. I choose ONE localized Kekule/distonic resonance form -- odd electron on C9 (a meta-position carbon radical) and formal + on C10 (adjacent, allylic to the exocyclic methylene / benzylic-stabilized) -- consistently in precursor and both products, so the +. rides along as a SPECTATOR (no atom radical change, no radical arrow needed). The transient TS dot/plus that the book draws on C1/benzylic is the concerted midpoint, not an isolable species. CONVENTION F: no m/z and no % are printed for this ion on the page; observed_mz 92.0621 is the curator-computed monoisotopic m/z of C7H8+. from this instantiation, status 'inferred', detected=false, relative_intensity omitted."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "electron_energy_ev": 70.0, "precursor_mz": 122.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_92_methylenecyclohexadiene", "species_id": "methylenecyclohexadiene_radical_cation", "step_id": "step_rH_six_membered_formaldehyde_loss", "observed_mz": 92.0621, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
